US05824690
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(4-methyl-phenyl)-piperidine-4-carboxylic acid amide
Combine 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.37 g, 0.7 mmol), 4-(methyl-phenyl)-piperidine-4-carboxylic acid amide hydriodide (0.7 mmol) and N,N-diisopropylethylamine (0.36 mL, 2.07 mmol) in acetonitrile (10 mL). Heat to reflux. After 20 hours, evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate and then 10% methanol/ethyl acetate to give the title compound: Rf =0.23 (silica gel, 10% methanol/ethyl acetate).

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.7 mmol, 0.37 g | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-(methyl-phenyl)-piperidine-4-carboxylic acid amide hydriodide | 0.7 mmol | I.CC1=C(C=CC=C1)C1(CCNCC1)C(=O)N
reactant | N,N-diisopropylethylamine | 2.07 mmol, 0.36 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(4-methyl-phenyl)-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=C(C=C1)C | C35H41Cl2N3O5
